US07253165B2
Synthesis of (R)-1-{3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-2-hydroxy-propylamino}-indan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dimethylformamide and (1S, 2R)-(−)-cis-1-amino-2-indanol in ethanol, essentially as described above in Example 70. Purity by LC/MS=100%, [M+H]+=435.

reactant | (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | (1S, 2R)-(−)-cis-1-amino-2-indanol | C1[C@H]([C@H](C2=CC=CC=C21)N)O | C9H11NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-{3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-2-hydroxy-propylamino}-indan-2-ol | FC1=CC2=C(C(=NO2)C2=CC=C(OCC(CN[C@H]3C(CC4=CC=CC=C34)O)O)C=C2)C=C1 | C25H23FN2O4
